US07842685B2
A slurry of methyl 1-((3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate (0.390 g, 0.78 mmol) and 10% palladium on carbon, 50% water, (0.41 g) and N,N-diisopropylethylamine (0.27 mL, 1.6 mmol) was treated with a hydrogen balloon and stirred rapidly for 2 h, then was flushed with nitrogen, filtered through celite, rinsing with MeOH/DCM. The filtrate was concentrated in vacuo and the residue purified by silica gel chromatography 40 g, 20-100% EA/hexanes to give methyl 1-((3-amino-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as a yellow solid. MS (ESI) m/z: Calculated: 470.2; Observed: 470.8 (M++1).

reactant | methyl 1-((3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | 0.78 mmol, 0.390 g | [N+](=O)([O-])C=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C27H24N4O4S
reactant | N,N-diisopropylethylamine | 1.6 mmol, 0.27 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | 0.41 g | O | H2O
product | methyl 1-((3-amino-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | NC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C27H26N4O2S
